US09145407B2
4-Chloro-2-(2-chloropyrimidin-4-yl)phenol
A mixture of 2,4-dichloropyrimidine (0.765 g, 5.03 mmol), (5-chloro-2-hydroxyphenyl)boronic acid (0.568 g, 3.30 mmol), 2.0 M aqueous sodium carbonate (2.82 mL, 5.64 mmol), and 1,2-dimethoxyethane (8 mL) was sparged for 10 minutes with argon. Tetrakis(triphenylphosphine)palladium(0) (0.217 g, 0.19 mmol) was added, and the resultant mixture was heated for 4 hours at 85° C. The reaction mixture mixture was cooled to 0° C., quenched with saturated aqueous ammonium chloride solution, and extracted with dichloromethane (×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by automated silica gel flash chromatography (hexanes to ethyl acetate gradient elution) to afford the title compound as a yellow solid (61.5 mg, 7%).

reactant | 2,4-dichloropyrimidine | 5.03 mmol, 0.765 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | (5-chloro-2-hydroxyphenyl)boronic acid | 3.30 mmol, 0.568 g | ClC=1C=CC(=C(C1)B(O)O)O | C6H6BClO3
reactant | sodium carbonate | 5.64 mmol, 2.0 M, 2.82 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.19 mmol, 0.217 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane | 8 mL | COCCOC | C4H10O2
product | 4-Chloro-2-(2-chloropyrimidin-4-yl)phenol | 61.5 mg, 7% | ClC1=CC(=C(C=C1)O)C1=NC(=NC=C1)Cl | C10H6Cl2N2O
